US08809339B2
Into a 50-mL round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-((3-methoxy-3-oxopropylthio)methyl)benzoic acid (61.6 mg, 0.24 mmol, 1.00 equiv) in dichloromethane (5 mL). This was followed by dropwise addition of oxalyl dichloride (121.76 mg, 0.96 mmol, 4.00 equiv) with stirring at room temperature. Then a few drops of N,N-dimethylformamide were added as catalyst. The resulting solution was heated to reflux for 30 min. The resulting mixture was concentrated under vacuum to yield 60 mg (crude) of methyl 3-(3-(chlorocarbonyl)benzylthio)propanoate as yellow oil. The crude was used directly in the next step.

reactant | 3-((3-methoxy-3-oxopropylthio)methyl)benzoic acid | 0.24 mmol, 61.6 mg, 1.00 equiv | COC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C12H14O4S
reactant | oxalyl dichloride | 0.96 mmol, 121.76 mg, 4.00 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | methyl 3-(3-(chlorocarbonyl)benzylthio)propanoate | 60 mg | ClC(=O)C=1C=C(CSCCC(=O)OC)C=CC1 | C12H13ClO3S
